US06589951B1
Synthesis of 1-Benzyl-6,7-dimethoxy-4-pyridin-4-ylmethyl-phthalazine (Compound 20)
In anhydrous environment, ZnCl2 (863 mg, 6.33 mmoles) was dissolved in tetrahydrofuran (20 ml), and a 2M solution of benzyl magnesium chloride in tetrahydrofuran (3.2 ml, 2.5 equivalents) was dropped therein. After 30 minutes 1-chloro-6,7-dimethoxy-4-pyridin-4-ylmethyl-phthalazine (800 mg, 2.53 mmoles), obtained as described in example 63, palladium acetate (71 mg, 0.316 mmole) and triphenylphosphine (166 mg, 0.633 mmole) were added and the whole was refluxed. After 1 hour the mixture was poured into a saturated solution of NH4Cl and by adding ethyl acetate a solid precipitated. The whole was evaporated to dryness and the residue taken up in methylene chloride and extracted with concentrated ammonia. The organic phase was dried to yield a residue which was chromatographed (eluent:methylene chloride/2% methanol, then methylene chloride/5% methanol). The oily eluate was dissolved in methylene chloride and by adding HCl/ethyl ether a precipitate formed which was tritured in ethyl acetate and filtered to give 788 mg of the title product (yield: 64.8%).

reactant | benzyl magnesium chloride | C(C1=CC=CC=C1)[Mg]Cl
reactant | 1-chloro-6,7-dimethoxy-4-pyridin-4-ylmethyl-phthalazine | 2.53 mmoles, 800 mg | ClC1=NN=C(C2=CC(=C(C=C12)OC)OC)CC1=CC=NC=C1 | C16H14ClN3O2
reactant | triphenylphosphine | 0.633 mmole, 166 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | NH4Cl | [NH4+].[Cl-]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | ZnCl2 | 6.33 mmoles, 863 mg | [Cl-].[Cl-].[Zn+2]
catalyst | palladium acetate | 0.316 mmole, 71 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | tetrahydrofuran | 3.2 ml, 2.5 equivalents | O1CCCC1 | C4H8O
product | 1-Benzyl-6,7-dimethoxy-4-pyridin-4-ylmethyl-phthalazine | 788 mg, yield: 64.8% | C(C1=CC=CC=C1)C1=NN=C(C2=CC(=C(C=C12)OC)OC)CC1=CC=NC=C1 | C23H21N3O2
